US06858638B2
N-{3-[2-(4-Fluorophenyl)ethyl]-1H-indazol-5-yl}-2-methylsulfonylbenzenesulfonamide can be obtained in the following way: a mixture of 300 mg of N-{3-[(E)-2-(4-fluorophenyl)vinyl]-1H-indazol-5-yl}-2-methylsulfonylbenzenesulfonamide, of 30 mg of 10% palladium-on-charcoal and of 8 ml of dimethylformamide is autoclaved under a pressure of 10 bar of hydrogen and the mixture is stirred at a temperature in the region of 20° C. for 1 hour until complete absorption of hydrogen. The medium is then filtered through a bed of Celite® 535, this is washed with dimethylformamide and the filtrate is concentrated to dryness under reduced pressure. The solid residue is taken up with dichloromethane and the insoluble material is isolated by filtration, washed with dichloromethane and then dried under reduced pressure. 220 mg of N-{3-[2-(4-fluorophenyl)ethyl]-1H-indazol-5-yl}-2-methylsulfonylbenzenesulfonamide is thus obtained in the form of an off-white solid melting at 234° C. (analysis C22H20FN3O4S2 % calculated C, 55.81; H, 4.26; F, 4.01; N, 8.87; O, 13.51; S, 13.54. % found C, 55.80; H, 4.45; F, 3.85; N, 8.97; S, 12.80).

reactant | N-{3-[(E)-2-(4-fluorophenyl)vinyl]-1H-indazol-5-yl}-2-methylsulfonylbenzenesulfonamide | 300 mg | FC1=CC=C(C=C1)/C=C/C1=NNC2=CC=C(C=C12)NS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)C | C22H18FN3O4S2
reactant | hydrogen | [H][H] | H2
catalyst | palladium-on-charcoal | 30 mg | [Pd] | Pd
solvent | dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
product | N-{3-[2-(4-fluorophenyl)ethyl]-1H-indazol-5-yl}-2-methylsulfonylbenzenesulfonamide | 220 mg | FC1=CC=C(C=C1)CCC1=NNC2=CC=C(C=C12)NS(=O)(=O)C1=C(C=CC=C1)S(=O)(=O)C | C22H20FN3O4S2
